US08124760B2
Preparation of 5-phenyl-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine (compound No. 28)
0.2 mL of a phenyl magnesium bromide 3.0 M tetrahydrofuran solution was added at 0° C. to a tetrahydrofuran (dehydrated) 3 mL solution of 200 mg of 5-(methylsulfonyl)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine, followed by stirring at 0° C. for 5 minutes. After completion of the reaction, water was added to the reaction liquid, followed by extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1) to obtain 93 mg of the desired product.

reactant | phenyl magnesium bromide | 3.0 M, 0.2 mL | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 5-(methylsulfonyl)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 200 mg | CS(=O)(=O)C1=NC=2N(C(=C1)C1=NC=C(C=C1)C(F)(F)F)N=CN2 | C12H8F3N5O2S
solvent | water | O | H2O
product | 5-phenyl-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 93 mg | C1(=CC=CC=C1)C1=NC=2N(C(=C1)C1=NC=C(C=C1)C(F)(F)F)N=CN2 | C17H10F3N5
